US07662826B2
To a mixture of 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid (0.08 g), 2-cyclohexylaniline (0.06 g), and 2 ml of N,N-dimethylformamide, 1-hyhdroxy benzotriazol (0.05 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.07 g) were added, and stirred at room temperature over 2 hours. The reactant was poured into 20 ml of water, and extracted with 80 ml of ethyl acetate. The extract was washed saturated saline solution, dried with magnesium sulfate, and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (ethyl acetate:toluene=1:1), and recrystallized with ethyl acetate to yield N-2-cyclohexylphenyl-3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-amide (0.08 g, 64%) as a yellow needle crystal. mp: 160.2-161.4° C.

reactant | 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid | 0.08 g | ClC=1C=C(C=CC1)C=1C=NN2C1N=C(C=C2)C(=O)O | C13H8ClN3O2
reactant | 2-cyclohexylaniline | 0.06 g | C1(CCCCC1)C1=C(N)C=CC=C1 | C12H17N
reactant | benzotriazol | 0.05 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.07 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-2-cyclohexylphenyl-3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-amide | 0.08 g, 64% | C1C(CCCC1)NC(=O)C1=NC=2N(C=C1)N=C(C2C2=CC(=CC=C2)Cl)C2=CC=CC=C2 | C25H23ClN4O
